US07759373B2
To a suspension of 6-chloronicotinamide (1.50 g) in ethanol (30 ml) was added sodium hydride (1.88 g, 60% mineral oil), and the mixture was stirred at room temperature for 24 hours. Another portion of sodium hydride (940 mg, 60% mineral oil) was added to the mixture, and the resulting mixture was stirred at room temperature for 24 hours followed by refluxing for 4.5 hours. Then, the reaction mixture was cooled, a saturated aqueous ammonium chloride solution was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was triturated with diethyl ether to obtain 6-ethoxynicotinamide (1.05 g) as colorless powder.

reactant | 6-chloronicotinamide | 1.50 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | sodium hydride | 1.88 g | [H-].[Na+]
reactant | sodium hydride | 940 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 6-ethoxynicotinamide | 1.05 g | C(C)OC1=NC=C(C(=O)N)C=C1 | C8H10N2O2
